US05426119
6-(2-(4-Bromobenzenesulphonylamino)indan-5-yl)-6-(3-pyridyl)hex-5-enoic acid
3.7 g of methyl 6-(2-(4-bromobenzenesulphonylamino)indan-5-yl)-6-(3-pyridyl)hex-5-enoate are refluxed for 15 minutes in 30 ml of ethanol and with 1N of 15N sodium hydroxide solution. After cooling the solution is rotary evaporated and the residue is taken up in water and washed with 30 ml of methylene chloride. Then the aqueous phase is adjusted to pH 4 using hydrochloric acid. The precipitate formed is washed and dried.

reactant | methyl 6-(2-(4-bromobenzenesulphonylamino)indan-5-yl)-6-(3-pyridyl)hex-5-enoate | 3.7 g | BrC1=CC=C(C=C1)S(=O)(=O)NC1CC2=CC=C(C=C2C1)C(=CCCCC(=O)OC)C=1C=NC=CC1 | C27H27BrN2O4S
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 6-(2-(4-Bromobenzenesulphonylamino)indan-5-yl)-6-(3-pyridyl)hex-5-enoic acid | BrC1=CC=C(C=C1)S(=O)(=O)NC1CC2=CC=C(C=C2C1)C(=CCCCC(=O)O)C=1C=NC=CC1 | C26H25BrN2O4S
